US08349851B2
To a solution of 95% NaH (1.82 g, 72.30 mmol) in DMF (100 mL) at 10° C. was added 2-amino-4-hydroxybenzamide (10.0 g, 66.72 mmol) in portions, maintaining the internal temperature at ca. 15° C. The cooling bath was removed, and the solution was allowed to warm to 40° C. over 25 min. The mixture was cooled to 10° C. and a solution of benzyl bromide (7.8 mL, 66.72 mmol) in DMF (20 mL) was added dropwise, and the mixture was allowed to warm to rt. After stirring for 20 h at rt, the mixture was cooled in an ice bath and quenched by addition of aq ammonium chloride. The solution was concentrated and diluted with water. The precipitate was collected by filtration, and the filtrate was extracted with EtOAc. The precipitate from above and the ethyl acetate extracts were combined and chromatographed on silica gel eluting with 20-80% EtOAc/DCM to afford 2-amino-4-(benzyloxy)benzamide as a solid (6.8 g, 43%). 1H NMR (300 MHz, DMSO-d6) δ ppm 5.04 (s, 2 H) 6.14 (dd, J=8.76, 2.54 Hz, 1 H) 6.27 (d, J=2.64 Hz, 1 H) 6.71 (bs, 2 H) 7.26-7.58 (m, 6 H). LC-MS (ESI) m/z 243 (M+H)+.

reactant | NaH | 72.30 mmol, 1.82 g | [H-].[Na+]
reactant | 2-amino-4-hydroxybenzamide | 66.72 mmol, 10.0 g | NC1=C(C(=O)N)C=CC(=C1)O | C7H8N2O2
reactant | benzyl bromide | 66.72 mmol, 7.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-(benzyloxy)benzamide | 6.8 g, 43% | NC1=C(C(=O)N)C=CC(=C1)OCC1=CC=CC=C1 | C14H14N2O2
